US07709645B2
3-(2-Methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine (500 mg, 1.12 mmol) was dissolved in tetrahydrofuran (10 mL) and cooled in an ice bath. Sodium hydride (60% oil dispersion, 103 mg, 2.58 mmol) was added, followed by p-toluene-sulfonylchloride (TsCl) (361 mg, 1.89 mmol). After stirring 19 h, deionized water was added and the mixture was extracted with ethyl acetate. The combined organic layers were washed with saturated sodium bicarbonate (1×) and brine (1×) and dried over sodium sulfate. The material was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-5-[1-(toluene-4-sulfonyl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine (458 mg, 68.4%). MS: m/z 599 (M+H+).

reactant | 3-(2-Methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine | 1.12 mmol, 500 mg | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C2=NNC=C2 | C17H14N4O
reactant | Sodium hydride | 2.58 mmol, 103 mg | [H-].[Na+]
reactant | p-toluene-sulfonylchloride | 1.89 mmol, 361 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-5-[1-(toluene-4-sulfonyl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 458 mg, 68.4% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=NN(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S2
